US06627651B1
Into a solution of 6-bromo-3-(4-methylphenyl)-2H-1-benzopyran (0.5 g) in THF (15 ml) was added at −78° C. 1.6 M butyl lithium (a hexane solution) (1.14 ml) under a nitrogen atmosphere. The resulting mixture was stirred at −78° C. for one hour, was then mixed with dry ice and was stirred for additional one hour. After addition of 1 N hydrochloric acid (10 ml), the resulting mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the resulting crystals were collected by filtration, and the crystals were washed with diethyl ether and hexane to obtain 3-(4-methylphenyl)-2H-1-benzopyran-6-carboxylic acid (218 mg) as colorless crystals.

reactant | 6-bromo-3-(4-methylphenyl)-2H-1-benzopyran | 0.5 g | BrC=1C=CC2=C(C=C(CO2)C2=CC=C(C=C2)C)C1 | C16H13BrO
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(4-methylphenyl)-2H-1-benzopyran-6-carboxylic acid | 218 mg | CC1=CC=C(C=C1)C=1COC2=C(C1)C=C(C=C2)C(=O)O | C17H14O3
